US07595426B2
In Russ. J. of Org. Chem., vol. 36, 1, pp. 132-33 (2000) describes the dehalogenation of 1,3,5-trichlorotrifluorobenzene by means of zinc in the presence of NiCl2 and bipyridine to give 1,3,5-trifluorobenzene.

reactant | 1,3,5-trichlorotrifluorobenzene | ClC1=C(C(=C(C(=C1F)Cl)F)Cl)F | C6Cl3F3
reactant | bipyridine | C=1C=CN=C(C1)C=2C=CC=CN2 | C10H8N2
catalyst | zinc | [Zn] | Zn
catalyst | NiCl2 | Cl[Ni]Cl
product | 1,3,5-trifluorobenzene | FC1=CC(=CC(=C1)F)F | C6H3F3
